US05254720
The [PdCl2 /CuCl2 /CO] complex was freshly prepared as described above. To this catalyst (0.16 mmol) was added a solution of triphenylphosphine (0.13 g, 0.50 mmol). The mixture was transferred to an autoclave (Hastelloy B, 100-mL). A solution of 1-decene (1.12 g, 8.0 mmol), H2O (1 mL), and THF (15 mL) was then added via syringe. The autoclave was purged with CO (2×500 psig) and was then pressurized with CO (500 psig). The reactor was agitated at 50° C. overnight. GC analysis of an aliquote showed a 1:1 mixture of 2-methyldecanoic acid and n-undecanoic acid in 70% conversion. The reactor was cooled to room temperature and CO pressure was released. Standard workup yielded undecanoic acid (1.0 g, 68% yield) as an oil.

reactant | triphenylphosphine | 0.50 mmol, 0.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-decene | 8.0 mmol, 1.12 g | C=CCCCCCCCC | C10H20
reactant | H2O | 1 mL | O | H2O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | undecanoic acid | 1.0 g, 68% yield | C(CCCCCCCCCC)(=O)O | C11H22O2
